US07160882B2
e) 4,4-diethyl-1-{3-[2-hydroxy-2-(6-hydroxy-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-3-methyl-butyl}-1,4-dihydro-benzo[d][1,3]oxazin-2-one
130 mg (0.21 mmol) 1-{3-[2-(6-benzyloxy-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-3-methyl-butyl}-4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one are dissolved in 5 mL methanol and hydrogenated in the presence of palladium on charcoal (10%) at ambient temperature. The catalyst is suction filtered, the filtrate is evaporated down and the residue is purified by chromatography (Reverse phase; acetonitrile/water gradient). White solid.

reactant | 1-{3-[2-(6-benzyloxy-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-3-methyl-butyl}-4,4-diethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 0.21 mmol, 130 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(C(O2)(C)C)=O)C1)C(CNC(CCN1C(OC(C2=C1C=CC=C2)(CC)CC)=O)(C)C)O | C36H45N3O6
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4,4-diethyl-1-{3-[2-hydroxy-2-(6-hydroxy-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-3-methyl-butyl}-1,4-dihydro-benzo[d][1,3]oxazin-2-one | C(C)C1(C2=C(N(C(O1)=O)CCC(C)(C)NCC(C1=CC(=CC=3NC(C(OC31)(C)C)=O)O)O)C=CC=C2)CC | C29H39N3O6
